US06894050B2
Preparation of Intermediate C-(6-Methyl-pyridin-2-yl)-methylamine (I-4i)
To a cooled solution of 1.0 M LiAlH4 in THF (35.6 mL, 35.6 mmol) at 0° C. was added dropwise a solution of 6-methyl-pyridine-2-carbonitrile I-4h (2.0 g, 16.9 mmol) in THF (34 mL). The reaction mixture was stirred at 0° C. for 5 minutes after the addition was complete and then quenched with the addition of 1N NaOH (20 mL). The resulting reaction mixture was stirred for 1 h and filtered through celite washing well with ether. The filtrate was diluted with 1N NaOH (20 mL) and the organic layer separated. The organic layer was then washed with brine, dried (Na2SO4), and concentrated in vacuo to give the desired product I-4i (1.02 g).

reactant | LiAlH4 | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-methyl-pyridine-2-carbonitrile | 16.9 mmol, 2.0 g | CC1=CC=CC(=N1)C#N | C7H6N2
solvent | THF | 34 mL | C1CCOC1 | C4H8O
solvent | THF | 35.6 mmol, 35.6 mL | C1CCOC1 | C4H8O
product | C-(6-Methyl-pyridin-2-yl)-methylamine | CC1=CC=CC(=N1)CN | C7H10N2
